US06127538
Synthesis of 2,4-diamino-6-ethylamino-1,3,5-triazine
A mixed solution of 14.5 g (0.1 mol) of 2,4-diamino-6-chloro-1,3,5-triazine prepared in Reference Example 1, 12.8 g (0.2 mol) of aqueous ethylamine solution (70%), 20 mL of water, and 50 mL of 1,4-dioxane was warmed with stirring and allowed to react at a reflux temperature for 4 hours. Thereafter, a solution of 4.0 g (0.1 mol) of sodium hydroxide in 15 mL of water was dropwise added thereto over 1 hour while maintaining the reflux state. After cooling the reaction mixture, the solvent and excess ethylamine were distilled off under reduced pressure, 30 mL each of methanol and acetonitrile were added, and the unnecessary salts were filtered. To the residue obtained by distilling off the solvent from the filtered solution were added 5 mL of methanol and 40 mL of acetone to precipitate crystals, which were collected by filtration, washed with 10 mL of acetone, and dried to obtain 11.5 g (yield 75%) of the titled compound. Melting point: 171° C.

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 0.1 mol, 14.5 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | ethylamine | 0.2 mol, 12.8 g | C(C)N | C2H7N
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 0.1 mol, 4.0 g | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2,4-diamino-6-ethylamino-1,3,5-triazine | 11.5 g, yield 75% | NC1=NC(=NC(=N1)N)NCC | C5H10N6
